US06777417B2
5-Aminolevulinic acid hydrochloride salt (13.7 g, 0.1 mol), sodium acetate (41 g, 0.2 mol), and 1,2-cyclohexanedione (11.2 g, 0.1 mol) were stirred for 20 hours in 200 ml of water at 50° C. The mixture was cooled and the solid product collected by vacuum filtration and washed with 50% ethanol in water. The product was slurry-washed in 100 ml of 50% ethanol in water, collected and dried under vacuum to give 3-(4-oxo-4,5,6,7-tetrahydro-1H-indol-3-yl)propionic acid (12 g, 67% yield).

reactant | 5-Aminolevulinic acid hydrochloride salt | 0.1 mol, 13.7 g | Cl.NCC(CCC(=O)O)=O
reactant | sodium acetate | 0.2 mol, 41 g | C(C)(=O)[O-].[Na+]
reactant | 1,2-cyclohexanedione | 0.1 mol, 11.2 g | C1(C(CCCC1)=O)=O | C6H8O2
solvent | water | 200 ml | O | H2O
product | 3-(4-oxo-4,5,6,7-tetrahydro-1H-indol-3-yl)propionic acid | 12 g, 67% yield | O=C1C=2C(=CNC2CCC1)CCC(=O)O | C11H13NO3
